US08487108B2
Step 3. (R)-tert-butyl 3-((R)-(cyanomethoxy)(m-tolyl)methyl)piperidine-1-carboxylate
To a solution of (R)-tert-butyl 3-((S)-hydroxy(m-tolyl)methyl)piperidine-1-carboxylate (30.5 g, 0.1 mol) in MeCN (300 mL), NaH (12 g, 0.3 mol) was added at 0° C. The mixture was stirred for 1 hr at rt. The mixture was cooled to −40° C., then bromoacetonitrile (35.7 g, 0.3 mol) was added in portions. The mixture was stirred for 0.5 hr at −20° C. continually. The reaction was quenched with sat. NH4Cl. The mixture was extracted with CH2Cl2. The organic layer was dried over Na2SO4, concentrated. Crude (R)-tert-butyl 3-((R)-(cyanomethoxy)(m-tolyl)methyl)piperidine-1-carboxylate was used for the next step without purification.

reactant | (R)-tert-butyl 3-((S)-hydroxy(m-tolyl)methyl)piperidine-1-carboxylate | 0.1 mol, 30.5 g | O[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C=1C=C(C=CC1)C | C18H27NO3
reactant | NaH | 0.3 mol, 12 g | [H-].[Na+]
reactant | bromoacetonitrile | 0.3 mol, 35.7 g | BrCC#N | C2H2BrN
solvent | MeCN | 300 mL | CC#N | C2H3N
product | (R)-tert-butyl 3-((R)-(cyanomethoxy)(m-tolyl)methyl)piperidine-1-carboxylate | C(#N)CO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C=1C=C(C=CC1)C | C20H28N2O3
